US08735414B2
Into a solution of methyl 1-cyclopentyl-5-fluoro-6-methyl-1H-indole-3-carboxylate (2.64 g, 9.6 mmol) and triisopropylborate (4.0 mL, 17.28 mmol) in THF (40 mL) at −78° C. was added LDA (1.5 M, 8.3 mL, 12.48 mmol) dropwise. The mixture was stirred for 45 min, and then treated with ice water and extracted with dichloromethane. The organic layer was dried over sodium sulfate and evaporated to give 1-cyclopentyl-5-fluoro-3-(methoxycarbonyl)-6-methyl-1H-indol-2-ylboronic acid as a semi-solid (3.1 g, ˜50% pure), which was used in next step without further purification.

reactant | methyl 1-cyclopentyl-5-fluoro-6-methyl-1H-indole-3-carboxylate | 9.6 mmol, 2.64 g | C1(CCCC1)N1C=C(C2=CC(=C(C=C12)C)F)C(=O)OC | C16H18FNO2
reactant | triisopropylborate | 17.28 mmol, 4.0 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | LDA | 12.48 mmol, 1.5 M, 8.3 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-cyclopentyl-5-fluoro-3-(methoxycarbonyl)-6-methyl-1H-indol-2-ylboronic acid | C1(CCCC1)N1C(=C(C2=CC(=C(C=C12)C)F)C(=O)OC)B(O)O | C16H19BFNO4
